US09034866B2
10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (85 mg) was reacted with aminoacetonitrile hydrochloride similar to as described in Example 2 to produce 75 mg crude 10-bromo-N3-(cyanomethyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide which was then reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similar to as described in Procedure E to afford 26.1 mg of N3-(cyanomethyl)-9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 479 (M)+. 1H NMR (400 MHz, DMSO) δ 12.05 (t, J=5.3 Hz, 1H), 8.68 (d, J=8.4 Hz, 1H), 8.57 (s, 1H), 8.06 (s, 1H), 7.06 (d, J=10.5 Hz, 1H), 6.55 (s, 1H), 6.35 (s, 1H), 5.05-4.95 (m, 2H), 4.61-4.54 (m, 2H), 4.40 (d, J=5.3 Hz, 2H), 2.41 (s, 3H), 1.82 (s, 3H).

reactant | 10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 85 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)O)C1)F | C13H9BrFN3O4
reactant | aminoacetonitrile hydrochloride | Cl.NCC#N
product | 10-bromo-N3-(cyanomethyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 75 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC#N)C1)F | C15H11BrFN5O3
